US07456316B2
1-[4(2-Hydroxyethyl)phenylamino]-3-(2-hydroxyethylmercapto)-4-aminoanthraquinone Ia
A mixture of 50.4 g of 1-[4-(2-hydroxyethyl)phenylamino]-3-chloro-4-aminoanthraquinone Ic from Example 3 and 100 ml of dimethylformamide (DMF) is heated to 80° C. in a laboratory reaction apparatus. A further 50 ml of DMF and 11 g of 2-mercaptoethanol are then added. At an internal temperature of 83° C., 18.6 g of 30% aqueous sodium hydroxide solution are then slowly added dropwise and the mixture is stirred for 3 hours at 80° C. After cooling to RT, the precipitate is filtered off, washed with ethanol and dried in a vacuum drying chamber.

reactant | 1-[4-(2-hydroxyethyl)phenylamino]-3-chloro-4-aminoanthraquinone | 50.4 g | OCCC1=CC=C(C=C1)NC1=CC(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)Cl | C22H17ClN2O3
reactant | 2-mercaptoethanol | 11 g | SCCO | C2H6OS
reactant | sodium hydroxide | 18.6 g | [OH-].[Na+]
solvent | DMF | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[4(2-Hydroxyethyl)phenylamino]-3-(2-hydroxyethylmercapto)-4-aminoanthraquinone | OCCC1=CC=C(C=C1)NC1=CC(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)SCCO | C24H22N2O4S
